US05561150
A solution of 1.5 g (7.4 mmol) of 2-hydroxymethylene-3,3,6-trimethyl-1-indanone, 0.55 g (6.1 mmol) of (RS)-1-hydrazino-2-propanol and 100 mg of p-toluenesulfonic acid in 100 ml of anhydrous toluene was heated on a water separator for 2 hours. After concentration in a vacuum, the reaction mixture was purified by column chromatography on silica gel (ethyl acetate/hexane 4:1). 1.6 g (84%) of (RS)-1-(4,4,7-trimethyl-1,4-dihydro-indeno[2,1-c]-pyrazol-1-yl)-propan-2-ol were obtained as a yellow oil which was used directly in the next reaction.

reactant | 2-hydroxymethylene-3,3,6-trimethyl-1-indanone | 7.4 mmol, 1.5 g | OC=C1C(C2=CC(=CC=C2C1(C)C)C)=O | C13H14O2
reactant | (RS)-1-hydrazino-2-propanol | 6.1 mmol, 0.55 g | N(N)CC(C)O | C3H10N2O
reactant | water | O | H2O
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | (RS)-1-(4,4,7-trimethyl-1,4-dihydro-indeno[2,1-c]-pyrazol-1-yl)-propan-2-ol | 1.6 g, 84% | CC1(C=CC(=C2C=C3N(N=CC3=C12)CC(C)O)C)C | C16H20N2O
